US07893060B2
2-(4-Azetidin-1-ylpiperidin-ylmethyl)-5-chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidine
Prepared according to the method used in the preparation of 5-(5-chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester using 4-azetidin-1-yl piperidine in place of hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester. The title compound was obtained as a yellow solid (97 mg, 33%).

reactant | 5-(5-chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC=1SC2=C(N=C(N=C2N2CCOCC2)Cl)N1 | C21H29ClN6O3S
reactant | 4-azetidin-1-yl piperidine | N1(CCC1)C1CCNCC1 | C8H16N2
product | 2-(4-Azetidin-1-ylpiperidin-ylmethyl)-5-chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidine | N1(CCC1)C1CCN(CC1)CC=1SC2=C(N=C(N=C2N2CCOCC2)Cl)N1 | C18H25ClN6OS
